### PR TITLE
[Merged by Bors] - feat: fderiv of ContinuousMultilinearMap applied to const; use for SchwartzMap.iteratedPDeriv

### PR DESCRIPTION
**Pull request by jvlmdr**
add `ContinuousMultilinearMap.apply`; use for `fderiv`, `iteratedFDeriv`, `SchwartzMap.iteratedPDeriv`

Defining `ContinuousMultilinearMap.apply` as a CLM (using existing proof of continuity) enables the proof that the application of a `ContinuousMultilinearMap` to a constant commutes with differentiation.

This closes a todo in `Mathlib/Analysis/Distribution/SchwartzSpace.lean`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 1]
```diff
@@ -907,6 +907,39 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+      (differentiableWithinAt_const u)]
+    simp [fderivWithin_const_apply _ (hs x hx)]
+    rw [fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv x hx)]
+
+/-- Application of a CLM to a constant commutes with `iteratedFDeriv`. -/
+theorem iteratedFDeriv_clm_apply_const_apply
+    {n : ℕ∞} {c : E → F →L[𝕜] G} (hc : ContDiff 𝕜 n c)
+    {i : ℕ} (hi : i ≤ n) {x : E} {u : F} {m : Fin i → E} :
+    (iteratedFDeriv 𝕜 i (fun y => (c y) u) x) m = (iteratedFDeriv 𝕜 i c x) m u := by
+  simp [← iteratedFDerivWithin_univ]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:938]: Another non-terminal simp.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 2]
```diff
@@ -907,6 +907,39 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+    have h_deriv_apply : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i (fun y => (c y) u) s) s :=
+      (hc.clm_apply contDiffOn_const).differentiableOn_iteratedFDerivWithin hi hs
+    have h_deriv : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i (fun y => c y) s) s :=
+      hc.differentiableOn_iteratedFDerivWithin hi hs
+    simp [iteratedFDerivWithin_succ_apply_left]
+    rw [← fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv_apply x hx)]
+    rw [fderivWithin_congr' (fun x hx => ih (le_of_lt hi) hx) hx]
+    rw [fderivWithin_clm_apply (hs x hx) (h_deriv.continuousMultilinear_apply_const _ x hx)
+      (differentiableWithinAt_const u)]
+    simp [fderivWithin_const_apply _ (hs x hx)]
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:930]: In mathlib, we'd like to avoid a bare `simp` call in the middle of a proof. `simp only` is fine (you can use `simp?` to find such an invocation), as is using `simp` when it closes a goal.

In mathlib jargon, these are called "non-terminal simps". They are harder to maintain over time (and using `simp only` can be slightly faster). The [glossary](https://leanprover-community.github.io/glossary.html#non-terminal-simp) (beware, written for Lean 3!) explains a bit more why they're avoided.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 3]
```diff
@@ -907,6 +907,39 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
 
 end SpecificBilinearMaps
 
+section ClmApplyConst
+
+/-- Application of a CLM to a constant commutes with `iteratedFDerivWithin`. -/
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:912]: Do you want to write out "CLM", to remind the reader?

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 4]
```diff
@@ -907,6 +907,39 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+theorem iteratedFDerivWithin_clm_apply_const_apply
+    {s : Set E} (hs : UniqueDiffOn 𝕜 s) {n : ℕ∞} {c : E → F →L[𝕜] G} (hc : ContDiffOn 𝕜 n c s)
+    {i : ℕ} (hi : i ≤ n) {x : E} (hx : x ∈ s) {u : F} {m : Fin i → E} :
+    (iteratedFDerivWithin 𝕜 i (fun y => (c y) u) s x) m = (iteratedFDerivWithin 𝕜 i c s x) m u := by
+  induction i generalizing x with
+  | zero => simp
+  | succ i ih =>
+    replace hi : i < n := lt_of_lt_of_le (by norm_cast; simp) hi
+    have h_deriv_apply : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i (fun y => (c y) u) s) s :=
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:921]: $\mapsto$ is slightly preferred over "=>". You can type the former as \map or \mapsto in VS Code.

Also applies in a couple of other places.

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean [hunk 5]
```diff
@@ -159,6 +159,69 @@ theorem fderiv_clm_apply (hc : DifferentiableAt 𝕜 c x) (hu : DifferentiableAt
...
+  (hc.hasFDerivAt.continuousMultilinear_apply_const u).differentiableAt
+
+theorem DifferentiableOn.continuousMultilinear_apply_const (hc : DifferentiableOn 𝕜 c s)
+    (u : ∀ i, M i) : DifferentiableOn 𝕜 (fun y => (c y) u) s :=
+  fun x hx => (hc x hx).continuousMultilinear_apply_const u
+
+theorem Differentiable.continuousMultilinear_apply_const (hc : Differentiable 𝕜 c) (u : ∀ i, M i) :
+    Differentiable 𝕜 fun y => (c y) u := fun x => (hc x).continuousMultilinear_apply_const u
+
+theorem fderivWithin_continuousMultilinear_apply_const (hxs : UniqueDiffWithinAt 𝕜 s x)
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FDeriv/Mul.lean:202]: I'm wondering: should this (and the next three lemmas) use dot notation as well? (You might know better than me!)

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean [hunk 6]
```diff
@@ -159,6 +159,69 @@ theorem fderiv_clm_apply (hc : DifferentiableAt 𝕜 c x) (hu : DifferentiableAt
...
+/-! ### Derivative of the application of continuous multilinear maps to a constant -/
+
+variable {ι : Type*} [Fintype ι]
+  {M : ι → Type*} [∀ i, NormedAddCommGroup (M i)] [∀ i, NormedSpace 𝕜 (M i)]
+  {H : Type*} [NormedAddCommGroup H] [NormedSpace 𝕜 H]
+  {c : E → ContinuousMultilinearMap 𝕜 M H}
+  {c' : E →L[𝕜] ContinuousMultilinearMap 𝕜 M H}
+
+theorem HasStrictFDerivAt.continuousMultilinear_apply_const (hc : HasStrictFDerivAt c c' x)
+    (u : ∀ i, M i) : HasStrictFDerivAt (fun y => (c y) u) (c'.flipMultilinear u) x :=
```
Comment (grunweg) [inline Mathlib/Analysis/Calculus/FDeriv/Mul.lean:173]: *Personally*, I find `(u : (i : ι) → M i)` a bit clearer. Let's see what a more experienced reviewer says.

**Review by grunweg — COMMENTED** [review]
Welcome to mathlib! It's good to have more people; working together is more fun.

I took a look at your PR; looks pretty good already! I left a few comments about style; a more experience reviewer will have to comment about higher-level pieces. (I don't have approval powers.)

**Comment by grunweg** [comment]
I tweaked the PR title and labelling to match standard practices better. For some reason, "new feature" and "enhancement" were used in the early days of mathlib4, but not any more. Yes, that's a bit confusing, sorry.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 2 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: Thanks! I didn't know that, and it makes sense

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean (hunk 4 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/ContDiff/Basic.lean]: Updated

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 5 above)
Comment (jvlmdr) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean:202]: Sounds good - I left this in the root namespace to match `fderiv_clm_apply`

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 7]
```diff
@@ -907,6 +907,40 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+    rw [← fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv_apply x hx)]
+    rw [fderivWithin_congr' (fun x hx ↦ ih (le_of_lt hi) hx) hx]
+    rw [fderivWithin_clm_apply (hs x hx) (h_deriv.continuousMultilinear_apply_const _ x hx)
+      (differentiableWithinAt_const u)]
+    rw [fderivWithin_const_apply _ (hs x hx)]
+    simp only [ContinuousLinearMap.flip_apply, ContinuousLinearMap.comp_zero, zero_add]
+    rw [fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv x hx)]
+
+/-- Application of a `ContinuousLinearMap` to a constant commutes with `iteratedFDeriv`. -/
+theorem iteratedFDeriv_clm_apply_const_apply
```
Comment (jvlmdr) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:935]: I did wonder whether it would be better to put this under `ContDiff.iteratedFDeriv_apply_const_apply`. However, I left it in the root namespace to match `norm_iteratedFDeriv_clm_apply_const`.

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 8]
```diff
@@ -907,6 +907,40 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+    {s : Set E} (hs : UniqueDiffOn 𝕜 s) {n : ℕ∞} {c : E → F →L[𝕜] G} (hc : ContDiffOn 𝕜 n c s)
+    {i : ℕ} (hi : i ≤ n) {x : E} (hx : x ∈ s) {u : F} {m : Fin i → E} :
+    (iteratedFDerivWithin 𝕜 i (fun y ↦ (c y) u) s x) m = (iteratedFDerivWithin 𝕜 i c s x) m u := by
+  induction i generalizing x with
+  | zero => simp
+  | succ i ih =>
+    replace hi : i < n := lt_of_lt_of_le (by norm_cast; simp) hi
+    have h_deriv_apply : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i (fun y ↦ (c y) u) s) s :=
+      (hc.clm_apply contDiffOn_const).differentiableOn_iteratedFDerivWithin hi hs
+    have h_deriv : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i (fun y ↦ c y) s) s :=
```
Comment (mcdoll) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:923]:
```suggestion
    have h_deriv : DifferentiableOn 𝕜 (iteratedFDerivWithin 𝕜 i c s) s :=
```

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 9]
```diff
@@ -907,6 +907,40 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+      hc.differentiableOn_iteratedFDerivWithin hi hs
+    simp only [iteratedFDerivWithin_succ_apply_left]
+    rw [← fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv_apply x hx)]
+    rw [fderivWithin_congr' (fun x hx ↦ ih (le_of_lt hi) hx) hx]
```
Comment (mcdoll) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:927]:
```suggestion
    rw [fderivWithin_congr' (fun x hx ↦ ih hi.le hx) hx]
```

File: Mathlib/Analysis/Calculus/ContDiff/Basic.lean [hunk 10]
```diff
@@ -907,6 +907,40 @@ theorem ContDiff.smulRight {f : E → F →L[𝕜] 𝕜} {g : E → G} {n : ℕ
...
+    simp only [ContinuousLinearMap.flip_apply, ContinuousLinearMap.comp_zero, zero_add]
+    rw [fderivWithin_continuousMultilinear_apply_const_apply (hs x hx) (h_deriv x hx)]
+
+/-- Application of a `ContinuousLinearMap` to a constant commutes with `iteratedFDeriv`. -/
+theorem iteratedFDeriv_clm_apply_const_apply
+    {n : ℕ∞} {c : E → F →L[𝕜] G} (hc : ContDiff 𝕜 n c)
+    {i : ℕ} (hi : i ≤ n) {x : E} {u : F} {m : Fin i → E} :
+    (iteratedFDeriv 𝕜 i (fun y ↦ (c y) u) x) m = (iteratedFDeriv 𝕜 i c x) m u := by
+  simp only [← iteratedFDerivWithin_univ]
+  exact iteratedFDerivWithin_clm_apply_const_apply uniqueDiffOn_univ hc.contDiffOn hi trivial
```
Comment (mcdoll) [inline Mathlib/Analysis/Calculus/ContDiff/Basic.lean:940]:
```suggestion
  exact iteratedFDerivWithin_clm_apply_const_apply uniqueDiffOn_univ hc.contDiffOn hi (mem_univ _)
```

**Review by mcdoll — COMMENTED** [review]
Thank you very much for the PR. I think being consistent within that file is the right call.

**Review by jvlmdr — COMMENTED** [review]
Thanks for the suggestions!

File: Mathlib/Analysis/Calculus/FDeriv/Mul.lean (hunk 6 above)
Comment (mcdoll) [reply Mathlib/Analysis/Calculus/FDeriv/Mul.lean]: It is written like this in other files (namely `Analysis.NormedSpace.Multilinear.Basic`)

**Comment by mcdoll** [comment]
maintainer merge

**Comment by sgouezel** [comment]
bors r+
Thanks!
